US06268391B1
1,3-Dihydro-pyrrolo[3,2-f]quinoline-2-one (552 mg, 3.00 mmol) was combined with 855 mg (3.05 mmol) of 3,5-dibromo-4-hydroxybenzaldehyde (TCl Chemicals) in 6 mL of glacial acetic acid with 1 mL of concentrated hydrochloric acid. The reaction was stirred at 115° C. for 8 hr, cooled and filtered, washing with ethyl acetate, to give 1.32 g of 1-(3,5-Dibromo-4-hydroxy-benzylidene)-1,3-dihydro-pyrrolo[3,2-f]quinolin-2-one hydrochloride as a brown solid which consisted of a 9/1 mixture of Z/E isomers. Mass spectrum (negative ion chemical ionization): m/z=443 (40%), 445 (100%), 447 (40%). 1H NMR (DMSO-d6): δ7.69 (d, J=8.8 Hz, 1H); 7.93 (dd, J=8.7, 4.9 Hz, 1H); 8.24 (d, J=8.8 Hz, 1H); 8.27 (s, 1H); 8.80 (s, 1H); 9.04 (d, J=4.7 Hz, 1H); 9.51 (d, J=8.6 Hz, 1H); 11.3 (s, 1H).

reactant | 1,3-Dihydro-pyrrolo[3,2-f]quinoline-2-one | 3.00 mmol, 552 mg | C1C(NC=2C1=C1C=CC=NC1=CC2)=O | C11H8N2O
reactant | 3,5-dibromo-4-hydroxybenzaldehyde | 3.05 mmol, 855 mg | BrC=1C=C(C=O)C=C(C1O)Br | C7H4Br2O2
reactant | hydrochloric acid | 1 mL | Cl | ClH
solvent | acetic acid | 6 mL | C(C)(=O)O | C2H4O2
product | 1-(3,5-Dibromo-4-hydroxy-benzylidene)-1,3-dihydro-pyrrolo[3,2-f]quinolin-2-one hydrochloride | 1.32 g | Cl.BrC=1C=C(C=C2C(NC=3C2=C2C=CC=NC2=CC3)=O)C=C(C1O)Br | InChI=1S/C18H10Br2N2O2.ClH/c19-12-7-9(8-13(20)17(12)23)6-11-16-10-2-1-5-21-14(10)3-4-15(16)22-18(11)24;/h1-8,23H,(H,22,24);1H
